datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[NH+:21]=[C:20]2[O]C(C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C([H])[O]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)C.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C1=CC=CC=C1)C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][H])([S]C)[O]CC.[Cl-]>>[Cl-].C[S:10][H].[H][O+:21]=[C:20]([S]C)[O]CC 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([S][H])[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([S][H])[S]C 21=20;20,10=10"
"[H][O:10]C(CC)C([H])[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C([H])[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C([H])[NH]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C([H])[NH][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"[K][O+:21]([C:20]([O-:10])(OCCCCCC)O[H])C>>[K][O:21]C.[C:20](=[O:10])(OCCCCCC)O[H] 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])C)C)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])C)C)[O-:10])CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(CC)C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C([H])[NH]1 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(CC)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[S]2.CC[S:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](CC)[S]1 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[O][H].[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])[O][C:20]([O][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([Li])[C:21]([O-:20])(OCCCCCC)O[H]>>[O:20]=[C:21](OCCCCCC)O[H].[H][O:10][Li] 20=21;21,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH]([H])[S]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC1=CC=CC=C1)C.[O-:21][H]>>C1=CC=CC=C1N([C:20]([O-:10])(OC1=CC=CC=C1)[O:21][H])C 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])C)C.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)C)C 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)C.[O-:21]C>>CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)CCCCCC)C 21=20;20,10=10"
